US08247403B2
(2) 9-(2-furyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(2-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (150 mg, 0.476 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (100 mg, 83.3%) as a solid.

reactant | tert-butyl 9-(2-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.476 mmol, 150 mg | O1C(=CC=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H21NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(2-furyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 100 mg, 83.3% | Cl.O1C(=CC=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C13H13NO2.ClH/c1-3-10-9-14-6-8-16-13(10)11(4-1)12-5-2-7-15-12;/h1-5,7,14H,6,8-9H2;1H
